US06133279
To a solution of 4.16 g of a 28% aqueous ammonia solution in 10 ml of ethanol was added dropwise a solution of 5.15 g of (5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methyl isothiocyanate in 20 ml of ethanol at room temperature. The mixture was stirred at room temperature for 2 hours, and then heated under reflux for further 1 hour. After cooling, ethanol was removed using an evaporator, and the mixture was combined with water and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography eluting with chloroform containing 10% methanol to give 5.3 g of 1-[(5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methyl]thiourea (rotamer mixture) as a white solid (yield 99%).

reactant | ammonia | N | H3N
reactant | (5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methyl isothiocyanate | 5.15 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CN=C=S)C1C(C)(C)C)C(C)(C)C | C21H29NO3S
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-[(5-acetoxy-4,6-di-t-butyl-2-methyl-2,3-dihydrobenzofuran-2-yl)methyl]thiourea | 5.3 g, yield 99% | C(C)(=O)OC=1C(=CC2=C(CC(O2)(C)CNC(=S)N)C1C(C)(C)C)C(C)(C)C | C21H32N2O3S
